US08685980B2
A mixture of 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbaldehyde (2.69 g, 11 mmol) in DMF is added oxone (7.2 g, 12 mmol) and stirred for 6 h. After the reaction is complete, water is added and a yellow solid is precipitated to give 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2.69 g, 85%). MS (ESI) m/z 266.4 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbaldehyde | 11 mmol, 2.69 g | ClC=1N=CC2=C(N1)N(C(=C2)C=O)C2CCCC2 | C12H12ClN3O
reactant | oxone | 12 mmol, 7.2 g | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid | 2.69 g, 85% | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)O)C2CCCC2 | C12H12ClN3O2
